simulator lang=spectre
global 0

ahdl_include "./dut/clocked_comparator_reset_low.va"

Vclk (cmpck 0) vsource type=pulse val0=0 val1=0.9 delay=5n period=20n width=10n rise=100p fall=100p
Vinp (vinp 0) vsource type=pwl wave=[0 0.70 18n 0.70 19n 0.25 60n 0.25]
Vinn (vinn 0) vsource dc=0.45
XDUT (cmpck vinn vinp dcmpn dcmpp) clocked_comparator_reset_low

tran tran stop=42n maxstep=50p
save cmpck vinn vinp dcmpn dcmpp
